US07307075B2
6-Fluoro-1H-quinolin-2-one (97KK38)
DDQ (0.38 g, 1.7 mmol) was added to a solution of 6-fluoro-3,4-dihydro-1H-quinolin-2-one (0.18 g, 1.1 mmol) in dioxane (25 mL) and the resulting solution was refluxed for 16 h. The mixture was concentrated, and sat aqueous Na2CO3 (25 mL) was added followed by extraction into an organic mixture (MeOH:CH2Cl2; 1:10, 3×50 mL). The combined organic phase was dried (Na2SO4), filtered, concentrated under reduced pressure and purified by flash CC (SiO2; CH2Cl2/MeOH 20:1) to give the title compound (0.056 g, 31%). 1H NMR (DMSO-D6) δ 11.8 (brs, 1H), 7.85 (d, J=9.4 Hz), 7.50 (dd, J=2.8, 9.2 Hz), 7.43-7.37 (m, 1H), 7.37-7.25 (m, 1H), 6.54 (d, J=9.4 Hz).

reactant | DDQ | 1.7 mmol, 0.38 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 6-fluoro-3,4-dihydro-1H-quinolin-2-one | 1.1 mmol, 0.18 g | FC=1C=C2CCC(NC2=CC1)=O | C9H8FNO
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 6-Fluoro-1H-quinolin-2-one | 0.056 g, 31% | FC=1C=C2C=CC(NC2=CC1)=O | C9H6FNO
